US07598383B2
2-(2-Fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide
Preparation of 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide: To a solution of 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester (0.050 g, 0.17 mmol) in THF (1.5 mL) under N2 was added O-(2-vinyloxy-ethyl)-hydroxylamine (0.044 g, 0.43 mmol). The solution was cooled to 0° C. and lithium bis(trimethylsilyl)amide (0.86 mL, 0.86 mmol, 1 M solution in hexanes) was added dropwise. The reaction mixture was warmed to room temperature. After stirring for 40 minutes, the reaction mixture was quenched by the addition of NaHCO3 and partitioned between EtOAc and saturated NaCl. The layers were separated and the aqueous layer was reextracted with EtOAc. The combined organic extracts were dried (Na2SO4) and concentrated under reduced pressure. Purification by flash column chromatography (methylene chloride/methanol, 20:1) gave 0.048 g (77%) pure desired product as an off-white foamy solid.

reactant | 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-vinyloxyethoxy)-amide | C(=C)OCCONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)C)F | C18H20FN3O4
reactant | 2-(2-fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid methyl ester | 0.17 mmol, 0.050 g | COC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)C)F | C15H15FN2O3
reactant | O-(2-vinyloxy-ethyl)-hydroxylamine | 0.43 mmol, 0.044 g | C(=C)OCCON | C4H9NO2
reactant | lithium bis(trimethylsilyl)amide | 0.86 mmol, 1 M, 0.86 mL | C[Si](C)(C)[N-][Si](C)(C)C.[Li+]
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | 2-(2-Fluoro-4-methylphenylamino)-1-methyl-6-oxo-1,6-dihydropyridine-3-carboxylic acid (2-hydroxyethoxy)-amide | 0.048 g, 77% | OCCONC(=O)C1=C(N(C(C=C1)=O)C)NC1=C(C=C(C=C1)C)F | C16H18FN3O4
